US03952012
A suspension of 3.0 g. (0.009 mole) of 1-benzyl-5-(p-chlorobenzoyl)-pyrrole-2-acetonitrile in 20 ml. of ethanol and 18 ml. (0.018 mole) of 1N sodium hydroxide is refluxed for 6 hours. The mixture is diluted with water and the ethanol evaporated in vacuo. The solution is washed with chloroform and ether and acidified with 3N hydrochloric acid. The precipitated solid is collected and dried in vacuo to give about 2.8 g. (91% yield) of 1-benzyl-5-(p-chlorobenzoyl)-pyrrole-2-acetic acid as white crystals, M.P. 162°-163°C.

reactant | 1-benzyl-5-(p-chlorobenzoyl)-pyrrole-2-acetonitrile | 0.009 mole | C(C1=CC=CC=C1)N1C(=CC=C1C(C1=CC=C(C=C1)Cl)=O)CC#N | C20H15ClN2O
reactant | ethanol | C(C)O | C2H6O
reactant | sodium hydroxide | 0.018 mole, 1N | [OH-].[Na+]
reactant | water | O | H2O
product | 1-benzyl-5-(p-chlorobenzoyl)-pyrrole-2-acetic acid | 91% yield | C(C1=CC=CC=C1)N1C(=CC=C1C(C1=CC=C(C=C1)Cl)=O)CC(=O)O | C20H16ClNO3
